US06596751B2
2-(N-t-Butoxycarbonyl-N-methylamino)-4-(methoxymethoxy-2,3,6-trimethylphenoxy)nitrobenzene
Sodium hydride (6.11 g, 55% suspension in mineral oil) was added to a solution of 4-methoxymethoxy-2,3,5-trimethylphenol (27.5 g) in dimethylformamide (300 ml). After stirring the mixture for 1 hour 4chloro-2-(N-t-butoxycarbonyl-N-methylamino)nitrobenzene (40.1 g) was added in small portions to the mixture and stirred at 120° C. for 2 hours. The solvent of the reaction mixture was evaporated under reduced pressure. The residue was partitioned between ethyl acetate and water. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was chromatographed on a silica gel column using hexane: ethyl acetate=5:1 as the eluant to afford the title compound (57.0 g, Rf=0.55: thin layer chromatography on a silica gel plate using hexane: ethyl acetate=4:1 as the eluant).

reactant | Sodium hydride | 6.11 g | [H-].[Na+]
reactant | 4-methoxymethoxy-2,3,5-trimethylphenol | 27.5 g | COCOC1=C(C(=C(C=C1C)O)C)C | C11H16O3
reactant | 4chloro-2-(N-t-butoxycarbonyl-N-methylamino)nitrobenzene | 40.1 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])N(C)C(=O)OC(C)(C)C | C12H15ClN2O4
reactant | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 2-(N-t-Butoxycarbonyl-N-methylamino)-4-(methoxymethoxy-2,3,6-trimethylphenoxy)nitrobenzene | C(C)(C)(C)OC(=O)N(C)C1=C(C=CC(=C1)OC1=C(C(=C(C=C1C)OCOC)C)C)[N+](=O)[O-] | C23H30N2O7
